US08022192B2
To a suspension of 1-acetyl-4-[(4-isopropoxyphenyl)-methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (1.00 g) in methanol (10 mL) was added potassium bicarbonate (0.038 g) under stirring at room temperature. The suspension turned into a solution by heating to reflux, and the mixture was stirred for further 2 hours. After confirming the completion of the reaction, a solution of glacial acetic acid (0.022 g) in water (10 mL) was added to the mixture at 60° C. to precipitate the crystals. The suspension was cooled to room temperature, and stirred under ice-cooling for 1 hour. The crystals were collected by filtration, and the obtained crystals were washed with a mixed solution of 2-propanol and n-heptane, and dried under reduced pressure to give 4-[(4-isopropoxyphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.890 g).

reactant | 1-acetyl-4-[(4-isopropoxyphenyl)-methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 1.00 g | C(C)(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H62N2O12
reactant | potassium bicarbonate | 0.038 g | C([O-])(O)=O.[K+]
reactant | acetic acid | 0.022 g | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-[(4-isopropoxyphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.890 g | C(C)(C)OC1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C40H60N2O11
